US07041824B2
Stage 1: 2-chloro-N-(4-chlorophenyl)-9H-purin-6-amine
The procedure is carried out as in Example 1, starting with 472.5 mg of 2,6-dichloropurine, 5 ml of butanol and 398.0 mg of para-chloroaniline. 700.3 mg of the expected product are thus obtained.

reactant | 2,6-dichloropurine | 472.5 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | para-chloroaniline | 398.0 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | butanol | 5 ml | C(CCC)O | C4H10O
product | 2-chloro-N-(4-chlorophenyl)-9H-purin-6-amine | 700.3 mg | ClC1=NC(=C2N=CNC2=N1)NC1=CC=C(C=C1)Cl | C11H7Cl2N5
